* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0012216345749840516
Fd1_1 0 s1 V1 -0.06108172874920258
Gr1_1_1 0 s1 x1_a1 0 -1.1735723944524527e+33
Gr2_1_1 0 s1 x2_a1 0 -1.7899414483037323e+20
Gr3_1_1 0 s1 x3_a1 0 -831808944558285.5
Gr4_1_1 0 s1 x4_a1 0 -853642713355.0775
Gr5_1_1 0 s1 x5_a1 0 -9475783986.027567
Gr6_1_1 0 s1 x6_a1 0 -366171710.8158456
Gr7_1_1 0 s1 x7_a1 0 -28704165.053708777
Gr8_1_1 0 s1 x8_a1 0 -3251717.4133286034
Gr9_re_1_1 0 s1 x9_re_a1 0 -126460.9138166486
Gr9_im_1_1 0 s1 x9_im_a1 0 134844.4772616358
Gr10_re_1_1 0 s1 x10_re_a1 0 -15898.06261855964
Gr10_im_1_1 0 s1 x10_im_a1 0 18624.71916515557
Gr11_re_1_1 0 s1 x11_re_a1 0 -4122.519691505067
Gr11_im_1_1 0 s1 x11_im_a1 0 3261.004218772921
Gr12_re_1_1 0 s1 x12_re_a1 0 -1365.9492390998837
Gr12_im_1_1 0 s1 x12_im_a1 0 74.96120381808024
Gr13_re_1_1 0 s1 x13_re_a1 0 -678.6541438867318
Gr13_im_1_1 0 s1 x13_im_a1 0 -685.2827113334471
Gr14_re_1_1 0 s1 x14_re_a1 0 -388.2569537969695
Gr14_im_1_1 0 s1 x14_im_a1 0 -925.5629786987629
Gr15_re_1_1 0 s1 x15_re_a1 0 -156.3041692713363
Gr15_im_1_1 0 s1 x15_im_a1 0 -943.7887227546597
Gr16_re_1_1 0 s1 x16_re_a1 0 -37.617452977775244
Gr16_im_1_1 0 s1 x16_im_a1 0 -711.0107639552873
Gd1_2 0 s1 p2 0 0.000921674750654746
Fd1_2 0 s1 V2 0.0460837375327373
Gr1_1_2 0 s1 x1_a2 0 8.854137449001696e+32
Gr2_1_2 0 s1 x2_a2 0 1.3504397075205113e+20
Gr3_1_2 0 s1 x3_a2 0 627566800495370.8
Gr4_1_2 0 s1 x4_a2 0 644039512508.8898
Gr5_1_2 0 s1 x5_a2 0 7149103486.757391
Gr6_1_2 0 s1 x6_a2 0 276262954.696655
Gr7_1_2 0 s1 x7_a2 0 21657099.178564396
Gr8_1_2 0 s1 x8_a2 0 2454238.5058900923
Gr9_re_1_2 0 s1 x9_re_a2 0 94866.59713911999
Gr9_im_1_2 0 s1 x9_im_a2 0 -102743.70369308568
Gr10_re_1_2 0 s1 x10_re_a2 0 13652.502818738312
Gr10_im_1_2 0 s1 x10_im_a2 0 -12046.217005120036
Gr11_re_1_2 0 s1 x11_re_a2 0 2674.229352506668
Gr11_im_1_2 0 s1 x11_im_a2 0 -2614.093840507608
Gr12_re_1_2 0 s1 x12_re_a2 0 842.2368586155492
Gr12_im_1_2 0 s1 x12_im_a2 0 -768.1049338603146
Gr13_re_1_2 0 s1 x13_re_a2 0 289.77296177132143
Gr13_im_1_2 0 s1 x13_im_a2 0 -182.20360115846583
Gr14_re_1_2 0 s1 x14_re_a2 0 137.19837472000606
Gr14_im_1_2 0 s1 x14_im_a2 0 -32.63910246576084
Gr15_re_1_2 0 s1 x15_re_a2 0 56.75156175783584
Gr15_im_1_2 0 s1 x15_im_a2 0 30.7183757351746
Gr16_re_1_2 0 s1 x16_re_a2 0 10.70873012652295
Gr16_im_1_2 0 s1 x16_im_a2 0 47.97682350894513
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.4721308991620406e-35
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 9.652003901073531e-23
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 2.0769819746100638e-17
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 2.0238586405999817e-14
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.8232284893124893e-12
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 4.718129804998209e-11
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 6.018530723761897e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 5.310787897118504e-09
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 1.2710316709837511e-07
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 7283711.664806635
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -7283711.664806635
Rp9_im_im_a1 0 x9_im_a1 1.2710316709837511e-07
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 9.423615249035598e-07
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 975242.781672685
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -975242.781672685
Rp10_im_im_a1 0 x10_im_a1 9.423615249035598e-07
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 4.066266137261859e-06
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 227176.2703265536
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -227176.2703265536
Rp11_im_im_a1 0 x11_im_a1 4.066266137261859e-06
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 1.2627055089680855e-05
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 75402.06232295898
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -75402.06232295898
Rp12_im_im_a1 0 x12_im_a1 1.2627055089680855e-05
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 3.158051262005977e-05
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 32396.332817846505
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -32396.332817846505
Rp13_im_im_a1 0 x13_im_a1 3.158051262005977e-05
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 6.800512531541126e-05
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 16640.470767006616
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -16640.470767006616
Rp14_im_im_a1 0 x14_im_a1 6.800512531541126e-05
Cx15_re_a1 x15_re_a1 0 1.0
Gx15_re_a1 0 x15_re_a1 p1 0 0.1414213562373095
Fx15_re_a1 0 x15_re_a1 V1 7.0710678118654755
Rp15_re_re_a1 0 x15_re_a1 0.00013159430363698693
Gp15_re_im_a1 0 x15_re_a1 x15_im_a1 0 9759.997621446611
Cx15_im_a1 x15_im_a1 0 1.0
Gp15_im_re_a1 0 x15_im_a1 x15_re_a1 0 -9759.997621446611
Rp15_im_im_a1 0 x15_im_a1 0.00013159430363698693
Cx16_re_a1 x16_re_a1 0 1.0
Gx16_re_a1 0 x16_re_a1 p1 0 0.1414213562373095
Fx16_re_a1 0 x16_re_a1 V1 7.0710678118654755
Rp16_re_re_a1 0 x16_re_a1 0.0002573548231515794
Gp16_re_im_a1 0 x16_re_a1 x16_im_a1 0 7058.765122754805
Cx16_im_a1 x16_im_a1 0 1.0
Gp16_im_re_a1 0 x16_im_a1 x16_re_a1 0 -7058.765122754805
Rp16_im_im_a1 0 x16_im_a1 0.0002573548231515794
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0009217046505541141
Fd2_1 0 s2 V1 0.04608523252770571
Gr1_2_1 0 s2 x1_a1 0 8.854424684617044e+32
Gr2_2_1 0 s2 x2_a1 0 1.3504835169127565e+20
Gr3_2_1 0 s2 x3_a1 0 627587159287678.1
Gr4_2_1 0 s2 x4_a1 0 644060405689.0472
Gr5_2_1 0 s2 x5_a1 0 7149335409.65044
Gr6_2_1 0 s2 x6_a1 0 276271916.89761966
Gr7_2_1 0 s2 x7_a1 0 21657801.752743177
Gr8_2_1 0 s2 x8_a1 0 2454318.1231922996
Gr9_re_2_1 0 s2 x9_re_a1 0 94869.63453626903
Gr9_im_2_1 0 s2 x9_im_a1 0 -102747.033618975
Gr10_re_2_1 0 s2 x10_re_a1 0 13653.046600332944
Gr10_im_2_1 0 s2 x10_im_a1 0 -12046.418020571075
Gr11_re_2_1 0 s2 x11_re_a1 0 2674.28457627528
Gr11_im_2_1 0 s2 x11_im_a1 0 -2614.1239142151635
Gr12_re_2_1 0 s2 x12_re_a1 0 842.2494708463182
Gr12_im_2_1 0 s2 x12_im_a1 0 -768.1119112742452
Gr13_re_2_1 0 s2 x13_re_a1 0 289.76867962342357
Gr13_im_2_1 0 s2 x13_im_a1 0 -182.19513249044206
Gr14_re_2_1 0 s2 x14_re_a1 0 137.19555274603064
Gr14_im_2_1 0 s2 x14_im_a1 0 -32.63333828420485
Gr15_re_2_1 0 s2 x15_re_a1 0 56.74897652358228
Gr15_im_2_1 0 s2 x15_im_a1 0 30.72305096893928
Gr16_re_2_1 0 s2 x16_re_a1 0 10.705385487514272
Gr16_im_2_1 0 s2 x16_im_a1 0 47.98055912889426
Gd2_2 0 s2 p2 0 -0.0012216680790311843
Fd2_2 0 s2 V2 -0.06108340395155922
Gr1_2_2 0 s2 x1_a2 0 -1.173604580364572e+33
Gr2_2_2 0 s2 x2_a2 0 -1.789990538499138e+20
Gr3_2_2 0 s2 x3_a2 0 -831831757410119.1
Gr4_2_2 0 s2 x4_a2 0 -853666125008.8949
Gr5_2_2 0 s2 x5_a2 0 -9476043865.0301
Gr6_2_2 0 s2 x6_a2 0 -366181753.3408568
Gr7_2_2 0 s2 x7_a2 0 -28704952.33268291
Gr8_2_2 0 s2 x8_a2 0 -3251806.643948038
Gr9_re_2_2 0 s2 x9_re_a2 0 -126464.35844347558
Gr9_im_2_2 0 s2 x9_im_a2 0 134848.23100522257
Gr10_re_2_2 0 s2 x10_re_a2 0 -15898.576165239114
Gr10_im_2_2 0 s2 x10_im_a2 0 18625.140192594212
Gr11_re_2_2 0 s2 x11_re_a2 0 -4122.612322280216
Gr11_im_2_2 0 s2 x11_im_a2 0 3261.1067480437655
Gr12_re_2_2 0 s2 x12_re_a2 0 -1365.9780053154097
Gr12_im_2_2 0 s2 x12_im_a2 0 75.00269124175608
Gr13_re_2_2 0 s2 x13_re_a2 0 -678.6621715810475
Gr13_im_2_2 0 s2 x13_im_a2 0 -685.2630495050871
Gr14_re_2_2 0 s2 x14_re_a2 0 -388.25997868718446
Gr14_im_2_2 0 s2 x14_im_a2 0 -925.5489008057821
Gr15_re_2_2 0 s2 x15_re_a2 0 -156.30560258180407
Gr15_im_2_2 0 s2 x15_im_a2 0 -943.7780641200065
Gr16_re_2_2 0 s2 x16_re_a2 0 -37.61787732373784
Gr16_im_2_2 0 s2 x16_im_a2 0 -711.0041073948692
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.4721308991620406e-35
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 9.652003901073531e-23
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 2.0769819746100638e-17
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 2.0238586405999817e-14
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.8232284893124893e-12
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 4.718129804998209e-11
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 6.018530723761897e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 5.310787897118504e-09
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 1.2710316709837511e-07
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 7283711.664806635
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -7283711.664806635
Rp9_im_im_a2 0 x9_im_a2 1.2710316709837511e-07
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 9.423615249035598e-07
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 975242.781672685
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -975242.781672685
Rp10_im_im_a2 0 x10_im_a2 9.423615249035598e-07
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 4.066266137261859e-06
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 227176.2703265536
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -227176.2703265536
Rp11_im_im_a2 0 x11_im_a2 4.066266137261859e-06
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 1.2627055089680855e-05
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 75402.06232295898
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -75402.06232295898
Rp12_im_im_a2 0 x12_im_a2 1.2627055089680855e-05
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 3.158051262005977e-05
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 32396.332817846505
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -32396.332817846505
Rp13_im_im_a2 0 x13_im_a2 3.158051262005977e-05
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 6.800512531541126e-05
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 16640.470767006616
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -16640.470767006616
Rp14_im_im_a2 0 x14_im_a2 6.800512531541126e-05
Cx15_re_a2 x15_re_a2 0 1.0
Gx15_re_a2 0 x15_re_a2 p2 0 0.1414213562373095
Fx15_re_a2 0 x15_re_a2 V2 7.0710678118654755
Rp15_re_re_a2 0 x15_re_a2 0.00013159430363698693
Gp15_re_im_a2 0 x15_re_a2 x15_im_a2 0 9759.997621446611
Cx15_im_a2 x15_im_a2 0 1.0
Gp15_im_re_a2 0 x15_im_a2 x15_re_a2 0 -9759.997621446611
Rp15_im_im_a2 0 x15_im_a2 0.00013159430363698693
Cx16_re_a2 x16_re_a2 0 1.0
Gx16_re_a2 0 x16_re_a2 p2 0 0.1414213562373095
Fx16_re_a2 0 x16_re_a2 V2 7.0710678118654755
Rp16_re_re_a2 0 x16_re_a2 0.0002573548231515794
Gp16_re_im_a2 0 x16_re_a2 x16_im_a2 0 7058.765122754805
Cx16_im_a2 x16_im_a2 0 1.0
Gp16_im_re_a2 0 x16_im_a2 x16_re_a2 0 -7058.765122754805
Rp16_im_im_a2 0 x16_im_a2 0.0002573548231515794
.ENDS s_equivalent
